US07855292B2
C. (±)-2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-N-[2-(4-chloro-phenyl)-1-hydroxymethyl-ethyl]-4-methyl-benzamide
2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-methyl-benzoic acid was coupled with (±)-2-amino-3-(4-chloro-phenyl)-propan-1-ol as in EXAMPLE 1, Part C. HPLC: RT=9.31 min. MS (ESI−): mass calcd. for C23H21ClN4O4S2, 516.07; m/z found, 515 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.52 (s, 1H), 8.33 (dd, J=7.0, 1.0, 1H), 8.19 (dd, J=8.8, 1.0, 1H), 7.68 (dd, J=8.8, 7.0, 1H), 7.48 (s, 1H), 7.32-7.27 (m, 2H), 7.21-7.17 (m, 2H), 7.09 (d, J=8.0, 1H), 6.75 (d, J=8.0, 1H), 6.28 (br d, J=7.4, 1H), 4.32-4.23 (m, 1H), 3.72 (dd, J=10.8, 3.6, 1H), 3.65 (dd, J=10.8, 4.5, 1H), 2.91 (d, J=7.4, 2H), 2.75 (br s, 1H), 2.27 (s, 3H).

reactant | 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-methyl-benzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=CC(=C2)C | C14H11N3O4S2
reactant | (±)-2-amino-3-(4-chloro-phenyl)-propan-1-ol | NC(CO)CC1=CC=C(C=C1)Cl | C9H12ClNO
product | (±)-2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-N-[2-(4-chloro-phenyl)-1-hydroxymethyl-ethyl]-4-methyl-benzamide | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)NC(CC1=CC=C(C=C1)Cl)CO)C=CC(=C2)C | C23H21ClN4O4S2
